US05095014
3-(2-Chlorophenoxy)-1-azetidinecarbonyl chloride
A mixture of 12 g (0.122 mol) of phosgene and 17 g (0.122 mol) of potassium carbonate in 350 ml of methylene chloride was stirred under nitrogen for 30 min then cooled in an ice water bath while 35.6 g (0.102 mol) of 1-(diphenylmethyl)-3-(2-chlorophenoxy)azetidine in 50 ml of methylene chloride was added dropwise. The reaction mixture was removed from the bath and stirred for 3 h; then treated with small pieces of ice to control the decomposition of the excess phosgene. When no further evolution of carbon dioxide was evident, the reaction mixture was treated with 20 ml of water and the methylene chloride solution decanted from the inorganic paste. After concentrating in vacuo, trituration of the residue (51 g) with hexane yielded, upon filtration, 20.7 g (82.5%) of white crystalline product, mp 80°-82° C. A sample was recrystallized from hexane for elemental analysis, mp 80°-82° C.

reactant | phosgene | 0.122 mol, 12 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.122 mol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(diphenylmethyl)-3-(2-chlorophenoxy)azetidine | 0.102 mol, 35.6 g | C1(=CC=CC=C1)C(N1CC(C1)OC1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C22H20ClNO
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Chlorophenoxy)-1-azetidinecarbonyl chloride | 20.7 g, 82.5% | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC=C1 | C10H9Cl2NO2
